US04851526
1-[(Cyclopropyl)methyl]-3-pyrrolidinemethanol
In a manner similar to Preparation 8, react cyclopropanecarboxaldehyde with 3-pyrrolidinemethanol to obtain the title compound.

reactant | cyclopropanecarboxaldehyde | C1(CC1)C=O | C4H6O
reactant | 3-pyrrolidinemethanol | N1CC(CC1)CO | C5H11NO
product | 1-[(Cyclopropyl)methyl]-3-pyrrolidinemethanol | C1(CC1)CN1CC(CC1)CO | C9H17NO
